US08314098B2
(Step 3): 2-(1-Benzyloxy-carbonyl-piperidin-4-yl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine
There was dissolved, in 1,4-dioxane (5 mL), 2-(1-benzyloxy-carbonyl-piperidin-4-yl)-5,7-dichloro-pyrazolo[1,5-a]-pyrimidine (192 mg, 0.474 mM), then morpholine (82.7 μL, 0.948 mM) was added to the solution and the mixture was stirred at room temperature for one hour. The solvent was distilled off from this reaction mixture, the residue thus obtained was diluted with water and then the mixture was extracted with ethyl acetate. The resulting extracts were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with diethyl ether to thus give the title compound (191 mg, yield: 88%).

reactant | 2-(1-benzyloxy-carbonyl-piperidin-4-yl)-5,7-dichloro-pyrazolo[1,5-a]-pyrimidine | 0.474 mM, 192 mg | C(C1=CC=CC=C1)ON1C(CC(CC1)C1=NN2C(N=C(C=C2Cl)Cl)=C1)=C=O | C19H16Cl2N4O2
reactant | morpholine | 0.948 mM, 82.7 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-(1-Benzyloxy-carbonyl-piperidin-4-yl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 191 mg, yield: 88% | C(C1=CC=CC=C1)ON1C(CC(CC1)C1=NN2C(N=C(C=C2N2CCOCC2)Cl)=C1)=C=O | C23H24ClN5O3
